US08980913B2
Step 1: N-Benzyl-2-(1,3-dioxolan-2-yl)ethanamine
To a mixture of benzylamine (2.18 mL, 20.0 mmol) and di-iso-propylethylamine (2.61 mL, 15.0 mmol) in acetonitrile (30 mL) was added 2-(2-bromoethyl)-1,3-dioxolane (1.17 mL, 10.0 mmol). The reaction mixture was stirred at room temperature for 72 hours. The reaction mixture was diluted with ethyl acetate and washed with water and brine. The organic phase was dried (magnesium sulfate), filtered and the solvent evaporated at reduced pressure. The residue was purified by flash column chromatography eluting with 0 to 4% methanol/dichloromethane to afford the title compound (0.836 g, 40%).

reactant | benzylamine | 20.0 mmol, 2.18 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | di-iso-propylethylamine | 15.0 mmol, 2.61 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-(2-bromoethyl)-1,3-dioxolane | 10.0 mmol, 1.17 mL | BrCCC1OCCO1 | C5H9BrO2
solvent | acetonitrile | 30 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-Benzyl-2-(1,3-dioxolan-2-yl)ethanamine | 0.836 g, 40% | C(C1=CC=CC=C1)NCCC1OCCO1 | C12H17NO2
